US03987047
3-p-Toluenesulfonyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline hydrochloride was prepared by acylation of 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline with -toluenesulfonyl chloride in pyridine.

reactant | 1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=CC13)CCNCC2 | C14H16N2
reactant | toluenesulfonyl chloride | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | 3-p-Toluenesulfonyl-1,2,4,5-tetrahydro-11-methyl-3H-azepino[4,5-b]quinoline hydrochloride | Yield: 50% | Cl.C1(=CC=C(C=C1)S(=O)(=O)N1CCC2=NC=3C=CC=CC3C(=C2CC1)C)C | InChI=1S/C21H22N2O2S.ClH/c1-15-7-9-17(10-8-15)26(24,25)23-13-11-19-16(2)18-5-3-4-6-20(18)22-21(19)12-14-23;/h3-10H,11-14H2,1-2H3;1H
